US06500863B1
(N-isoxazolidinyl)-2,6-dichloro-3-nitrobenzenesulfonamide
Following the general procedure for sulfonamide formation outlined in example 15, 2,6-dichloro-3-nitrobenzenesulfonyl chloride (1.5 g, 5.2 mmol), isoxazolidine hydrochloride (0.56 g, 5.2 mmol) and triethylamine (2.2 mL, 15.5 mmol) were reacted to form the desired product (1.2 g, 71%). LC-MS m/z 327 (M+).

reactant | 2,6-dichloro-3-nitrobenzenesulfonyl chloride | 5.2 mmol, 1.5 g | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)Cl | C6H2Cl3NO4S
reactant | isoxazolidine hydrochloride | 5.2 mmol, 0.56 g | Cl.O1NCCC1
reactant | triethylamine | 15.5 mmol, 2.2 mL | C(C)N(CC)CC | C6H15N
product | (N-isoxazolidinyl)-2,6-dichloro-3-nitrobenzenesulfonamide | 1.2 g, 71% | O1N(CCC1)C1=C(C(=C(C(=C1)Cl)S(=O)(=O)N)Cl)[N+](=O)[O-] | C9H9Cl2N3O5S
